US07728129B2
A solution of NaOH (24.0 g, 0.600 mol) in de-ionized H2O (240 mL) and toluene (60 mL) at 0° C. was treated with isopropyl piperazine dihydrochloride salt (39.0 g, 194 mmol). The resulting biphasic solution was stirred at 0° C. for 30 min. A solution of 4-formyl-benzoyl chloride in toluene was added in a slow stream via an addition funnel over 1 h, with vigorous mechanical agitation. The mixture was allowed to warm to room temperature over 16 h, then cooled to 0° C., and the pH adjusted to 10 with 1 N NaOH. The phases were separated and the aqueous layer was extracted with toluene (2×200 mL). The organic layers were combined, washed with brine (200 mL), and concentrated to yield 4-(4-isopropyl-piperazine-1-carbonyl)-benzaldehyde (52.5 g, mass balance 101%) as a pale, yellow-brown oil. The oil was dissolved in EtOH (600 mL) and, with vigorous mechanical agitation, was treated with a solution of NaHSO3 (23.1 g, 222 mmol) in de-ionized H2O (50 mL) which was added via an addition funnel over 30 min. The resulting mixture was stirred at room temperature for 48 h, and then cooled to 0° C. Methyl-tert-butyl ether (500 mL) was added and the resulting the slurry was stirred for 30 min. The precipitate was collected by suction filtration through a medium porosity glass frit, washed with cold EtOH/EtOAc (5:1, 3×60 mL). The solids were dried under vacuum for 2 h, then at 40° C. in a vacuum oven for 16 h to yield the title compound as a white solid.

reactant | NaOH | 0.600 mol, 24.0 g | [OH-].[Na+]
reactant | isopropyl piperazine dihydrochloride salt | 194 mmol, 39.0 g | Cl.Cl.C(C)(C)N1CCNCC1
reactant | 4-formyl-benzoyl chloride | C(=O)C1=CC=C(C(=O)Cl)C=C1 | C8H5ClO2
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | H2O | 240 mL | O | H2O
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-isopropyl-piperazine-1-carbonyl)-benzaldehyde | 52.5 g, 101% | C(C)(C)N1CCN(CC1)C(=O)C1=CC=C(C=O)C=C1 | C15H20N2O2
